### ISSUE TITLE
`rw` inserts rewritten hypothesis that forward-references fvar

### ISSUE THREAD

**Issue by datokrat** [leanprover/lean4#13424]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

`rw [lemma] at hyp` can leave `hyp` with a type that references a free variable which no longer exists in the local context, in the form of a literal `_fvar.n`. Subsequent tactics that recurse into that subterm, e.g. another `rw` that must match against `?c[?i]`, then fail with varying error messages because of the fvar., because the unifier aborts on the dangling fvar.

### Context

Discovered while working on the `getElemV` refactor of `Init.Data.String.Basic`. See commit `Slice.Pos.next_le_of_lt` in https://github.com/leanprover/lean4/blob/2fd80bb88ea0c3c2400b7539baa92ec341f200f1/src/Init/Data/String/Basic.lean.

### Steps to Reproduce

Observe the error in

```lean
theorem getElem_eq_sorry (b : ByteArray) (i : Nat) (hi : i < b.size) :
    b[i] = sorry :=
  sorry

/-- error: unknown free variable `_fvar.478` -/
#guard_msgs in
example (b : ByteArray) (i : Nat) (hi : i < b.size)
    (P : UInt8 → Prop) (hyp : P (b[i]'hi)) : True := by
  have h₂ : i < (b.extract 0 b.size).size := by simp; omega
  rw [show b[i]'hi = b[0 + i]'(by omega) by simp] at hyp
  rw [← ByteArray.getElem_extract] at hyp
  rotate_left
  · exact h₂
  · -- hyp is now `P (getElem (b.extract 0 b.size) i _fvar.478)`
    rw [getElem_eq_sorry] at hyp
    trivial
```

**Expected behavior:** No error, proof should succeed.

**Actual behavior:**

`hyp`'s type contains an invalid `_fvar.n` as bounds proof. Reason: It is supposed to refer to `h₂`, but `h₂` comes *after* `hyp` in the local context, so it can't be referenced.

Error message is shown. In the real-world example, the error message was "could not find pattern" and it took me a long time to figure out what is the problem. However, I wasn't able to create a small reproducer for that error message. Arguably, the invalid fvar is the root cause.

### Versions

```
Lean 4.31.0-nightly-2026-04-15
Target: x86_64-unknown-linux-gnu
```

### Additional Information

Look at the tactic state at the second bulleet point (the state with rewritten `hyp`):

```lean
b : ByteArray
i : Nat
hi : i < b.size
P : UInt8 → Prop
hyp✝ : P b[0 + i]
hyp : P (b.extract 0 b.size)[i]
h₂ : i < (b.extract 0 b.size).size
⊢ True
```

The problem is that the new, rewritten `hyp` variable is added to the local context *before* `h₂`, so the reference to it goes stale.

The bu probably comes from `replaceLocalDeclCore` in `src/Lean/Meta/Tactic/Replace.lean`. The current implementation uses:

```lean
let (_, localDecl') ← findMaxFVar (← instantiateMVars typeNew) |>.run localDecl
let result ← mvarId.assertAfter localDecl'.fvarId localDecl.userName typeNew typeNewPr
```

`findMaxFVar` only walks `FVar` nodes in `typeNew`. It does not consider the local contexts of unassigned metavariables that appear in `typeNew`. But those mvars have local contexts that may reference later fvars. Their eventual solutions can therefore literally reference
those fvars. When `assertAfter` reverts and re-introduces the later fvars, the *earlier* variable (in our case the rewritten `hyp`) refers to a *later* variable (`h₂`). This is already bad in and of it self. Additionally the fvarIds after the new `hyp` change, but the side-condition mvar still lives in the old context. Its eventual solution refers to the old fvarId, and that stale reference gets spliced into the new hypothesis's type.

With caution, let me show a present Claude prototyped in `src/Lean/Meta/Tactic/Replace.lean`: After computing `localDecl'` via `findMaxFVar`, walk every unassigned mvar remaining in `typeNew` and push `localDecl'` past any of the mvar's local-context fvars that are still in the main goal's local context:

```lean
let typeNewInst ← instantiateMVars typeNew
let (_, localDecl') ← findMaxFVar typeNewInst |>.run localDecl
let lctx ← getLCtx
let mvars ← getMVars typeNewInst
let mut localDecl' := localDecl'
for m in mvars do
  unless ← m.isAssigned do
    let mLCtx := (← m.getDecl).lctx
    for ldecl' in mLCtx do
      if let some ldecl := lctx.find? ldecl'.fvarId then
        if ldecl.index > localDecl'.index then
          localDecl' := ldecl
let result ← mvarId.assertAfter localDecl'.fvarId localDecl.userName typeNew typeNewPr
```

This makes `assertAfter` insert after the fvars the unassigned metavariables in `typeNew` could potentially refer to.

I manually verified that this fixes the reproducer and it seems correct to me, but I wonder whether there's a more efficient way to get the highest fvar index in an unassigned metavariable's local context other than iterating all of them.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
